US08431607B2
3-(4-(4-chlorophenoxy)phenyl)-1-(2-(piperazin-1-yl)ethyl)-4-(3-(trifluoromethyl)phenyl)-imidazolidin-2-one
tert-butyl 4-(2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazo-lidin-1-yl)ethyl)piperazine-1-carboxylate (15 mg, 0.023 mmol) is dissolved in a mixture solvent of DCM (0.2 mL) and TFA (0.2 mL). The reaction mixture is stirred at room temperature for 15 min before removal of the solvent. The residue is purified by reparative LC/MS to provide the title compound; HPLC-MS calculated for C28H28ClF3N4O2 (M+H+) 545.2, found 545.2.

reactant | tert-butyl 4-(2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)imidazo-lidin-1-yl)ethyl)piperazine-1-carboxylate | 0.023 mmol, 15 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(CC2C2=CC(=CC=C2)C(F)(F)F)CCN2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1 | C33H36ClF3N4O4
solvent | DCM | 0.2 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(4-(4-chlorophenoxy)phenyl)-1-(2-(piperazin-1-yl)ethyl)-4-(3-(trifluoromethyl)phenyl)-imidazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(CC2C2=CC(=CC=C2)C(F)(F)F)CCN2CCNCC2)=O)C=C1 | C28H28ClF3N4O2
